US09303023B2
To 4-nitro-1H-pyrazole (220 mg, 1.95 mmol) in acetonitrile (10 mL), Cs2CO3 (697 mg, 2.14 mmol) and (2-bromoethoxy)benzene (439 mg, 2.14 mmol) was added. The resulting mixture was refluxed (80° C.) for 40 min and then let stir at rt overnight. The reaction mixture was filtered, the filter cake washed with DCM and the filtrate concentrated in vacuo to obtain 4-nitro-1-(2-phenoxyethyl)-1H-pyrazole as a crude solid which was used without further purification. LC-MS conditions A: tR=0.85 min, [M+H]+=no ionization.

reactant | 4-nitro-1H-pyrazole | 1.95 mmol, 220 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | Cs2CO3 | 2.14 mmol, 697 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (2-bromoethoxy)benzene | 2.14 mmol, 439 mg | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-nitro-1-(2-phenoxyethyl)-1H-pyrazole | [N+](=O)([O-])C=1C=NN(C1)CCOC1=CC=CC=C1 | C11H11N3O3
